*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4012-335
* Inductance = 3300uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-1MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ4012-335_freq port1 port2 PARAMS: Cpar=6.93pF Ind=3300uH
X1 port1 port2 Model1A PARAMS:
+ R1=2100
+ R2=76
+ C= {Cpar}
+ K1=0.000001
+ K2=310
+ K3= {Ind}
+ K4=44
+ K5=0.0000189
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=130358.118
.ends LPZ4012-335_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4012-335
* Inductance = 3300uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-1MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ4012-335_imp port1 port2 PARAMS: Cpar=6.654pF Ind=3300uH
X1 port1 port2 Model1D PARAMS:
+ R1=2100
+ R2=76
+ C= {Cpar}
+ K1=0.000001
+ K2=310
+ K3= {Ind}
+ K4=44
+ K5=0.0000189
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=130358.118
.ends LPZ4012-335_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
